US08466167B2
To a solution of 4-(2-(5-amino-8-methylbenzo[f][1,7]naphthyridin-2-yl)ethyl)-3-methylbenzoyl chloride (from the previous step) (Example 5) and triethylamine (2.5 eq.) in ether (0.05 M) was added methanamine (5.0 eq.). The reaction mixture was stirred for overnight. Then the reaction mixture was diluted with ethyl acetate and water. The two phases were separated, and the aqueous layer was extracted twice with ethyl acetate. The combined organic layers were washed with brine, dried over anhydrous MgSO4, and concentrated en vaccuo. The crude material was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 0-80% ethyl acetate in hexane to give 4-(2-(5-amino-8-methylbenzo[f][1,7]naphthyridin-2-yl)ethyl)-N,3-dimethylbenzamide as a white solid. 1H NMR (CDCl3): δ 8.62 (s, 1H), 8.32 (s, 1H), 8.04 (d, 1H), 7.60 (s, 1H), 7.46-7.52 (m, 2H), 7.09-7.11 (m, 2H), 6.05 (br, 2H), 3.09-3.17 (m, 4H), 3.00 (d, 3H), 2.52 (s, 3H), 2.33 (s, 3H). LRMS [M+H]=385.2.

reactant | 4-(2-(5-amino-8-methylbenzo[f][1,7]naphthyridin-2-yl)ethyl)-3-methylbenzoyl chloride | NC1=NC2=C(C=3C=C(C=NC13)CCC1=C(C=C(C(=O)Cl)C=C1)C)C=CC(=C2)C | C23H20ClN3O
reactant | triethylamine | 2.5 eq. | C(C)N(CC)CC | C6H15N
reactant | methanamine | 5.0 eq. | CN | CH5N
solvent | ether | 0.05 M | CCOCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 4-(2-(5-amino-8-methylbenzo[f][1,7]naphthyridin-2-yl)ethyl)-N,3-dimethylbenzamide | NC1=NC2=C(C=3C=C(C=NC13)CCC1=C(C=C(C(=O)NC)C=C1)C)C=CC(=C2)C | C24H24N4O
